US04525294
Synthesis of N-sec. Butyl Glycine
338 g of glycine (4.5 mols), 1.5 liters of methanol, 15 g of 10% Pd on C, wet with water, and 500 g of methylethylketone (6.93 mols) are charged into the autoclave.

reactant | glycine | 4.5 mols, 338 g | NCC(=O)O | C2H5NO2
reactant | methanol | 1.5 liters | CO | CH4O
reactant | methylethylketone | 6.93 mols, 500 g | CC(=O)CC | C4H8O
catalyst | Pd | 15 g | [Pd] | Pd
solvent | water | O | H2O
product | N-sec. Butyl Glycine | C(C)(CC)NCC(=O)O | C6H13NO2
